US05227457
2,5-Dichlorophenyl Dimethyloctylsilyl Ether
To a solution of 3.75 g (0.023 mole) 2,5-dichlorophenol in 30 ml N,N-dimethylformamide are added 5.58 g (0.082 mole) imidazole and 16.6 ml (0.070 mole) chlorodimethyloctyl silane under argon. After stirring at room temperature for two hours, the mixture is diluted with an aqueous saturated sodium chloride solution and extracted with ether. The combined organic extracts are dried and condensed. The product is purified by column chromatography.

reactant | 2,5-dichlorophenol | 0.023 mole, 3.75 g | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | imidazole | 0.082 mole, 5.58 g | N1C=NC=C1 | C3H4N2
reactant | chlorodimethyloctyl silane | 0.070 mole, 16.6 ml | Cl[Si](CCCCCCCC)(C)C | C10H23ClSi
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | sodium chloride | [Cl-].[Na+]
product | 2,5-Dichlorophenyl Dimethyloctylsilyl Ether | C[Si](CCCCCCCC)(C)OC1=C(C=CC(=C1)Cl)Cl | C16H26Cl2OSi
